US08604244B2
A solution of N-(2,2-diethoxyethyl)butyramide (2.0 g, 0.0098 mol.)) in 10 mL of THF at 0° C. was added HCl(2N) in ether (4.9 mL, 1.0 eq) and water (0.34 mL, 2 eq). The solution was then stirred for 2 to 3 h at 0° C. the solvent was evaporated at room temperature and solid NaHCO3 was added, filtration and concentration to give after silica gel chromatography N-(2-oxoethyl)butyramide as a colorless oil (0.55 g g, 55% yield). 1HNMR (400 MHz, CDCl3): δ 0.89 (t, J=7.2 Hz, 3H); 1.58-1.63 (m, 2H); 2.12 (t, J=7.2 Hz, 2H); 4.17 (d, J=5.2 Hz, 2H); 6.31 (sbroad, 1H); 9.63 (s, 1H).

reactant | N-(2,2-diethoxyethyl)butyramide | 0.0098 mol, 2.0 g | C(C)OC(CNC(CCC)=O)OCC | C10H21NO3
reactant | HCl | 2N | Cl | ClH
reactant | ether | 4.9 mL, 1.0 eq | CCOCC | C4H10O
reactant | water | 0.34 mL, 2 eq | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(2-oxoethyl)butyramide | 55% yield | O=CCNC(CCC)=O | C6H11NO2
